US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Dissolve 7-chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3 g, 10.2 mmol) in 7 N ammonia in methanol (50 mL) and stir at ambient temperature for 16 h. Concentrate the reaction mixture to an oil and use without further purification. Dissolve the residue in a solvent mixture consisting of DCM (25 mL) and saturated aqueous potassium carbonate solution (25 mL) and add di-tert-butyl-dicarbonate (2.2 g, 10.2 mmol). Stir the reaction mixture at ambient temperature for 4 h, concentrate in vacuo and extract the aqueous residue with DCM. Dry the organic fraction over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:5) to give the title compound as a white solid (2.3 g, 76%). MS (ES−) m/z: 296 (M−H)−.

reactant | 7-chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 10.2 mmol, 3 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C12H11ClF3NO2
reactant | di-tert-butyl-dicarbonate | 10.2 mmol, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ammonia | 7 N | N | H3N
solvent | methanol | 50 mL | CO | CH4O
product | 3-tert-Butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.3 g, 76% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)O | C15H20ClNO3
